* ADA4927 SPICE Macro-model     
* Description: Amplifier
* Generic Desc: UltraLow Dist Current Feedbck ADC Driver
* Developed by: CK
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (07/2011)
* Copyright 2006, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
*
* BEGIN Notes:
*
* Not Modeled:
*     distortion is not characterized
*     cmrr is not  characterized in this version.
*
* Parameters modeled include:
*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is  non-static, will  vary with gain)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies 
*     vnoise, is included in this version
*     inoise, is included in this version
*     Vocm is varable and include input typical offset
*
* END Notes:
*
* Node assignments
*              	FD output negative
*              	|   FD output positive
* 		|   |    non-inverting input
*		|   |    |    inverting input
*		|   |    |    |   positive supply
*		|   |    |    |   |   negative supply
*		|   |    |    |   |   |    output positive
*		|   |    |    |   |   |    |     output negative
*		|   |    |    |   |   |    |     |     vocm input
*		|   |    |    |   |   |    |     |     |
.SUBCKT ADA4927 9b 3b    3a   9   99  50  71b    71   110

***************Positive Input Stage********************

I_I1            99 5 8E-4  
Q_Q1        50 2 5 QX   
V_Vos       2 3A 1.3E-3

***************Negative Input Stage********************

I_I2           99 6 8E-4  
Q_Q2       50 9 6 QX

****************Rail Clipping**************************

D_DL+         75A 14B DX
V_VL+         99 14B 1.7  
D_DL          14C 75A DX
V_VL          14C 50 1.7
D_DL-         13B 76A DX
V_VL-         13B 50 1.7
D_DLb-        76A 13C DX
V_VLb-        99 13C 1.7

***************Input Capacitance***********************

C_Cin         3A 9  0.2p      


*************Dominant Pole-Zero Stage******************

G_G1          13 14 5 6 5E-3
C_C1          14 13  1f  
C_C2          98 13  0.5p  
C_C3          98 14  0.5p
R_R11         98 13  RX 250k  
R_R12         98 14  RX 250k  

*****************Positive Pole Zero********************

G_Gp1         0 75 14 98 1
R_Rp1         75 0  RX 1  
C_Cp1         0 75  3E-16  

*****************Negative Pole Zero********************

G_Gp2         0 76 13 98 1
R_Rp2         76 0  RX 1  
C_Cp2         0 76  3E-16

*****************Negative Current Noise********************

F_FNnoise         0 2 V_VNnoise 1
V_VNnoise         0 500 0  
D_DNnoise         0 500 Dnoise  
R_RNnoise         0 500 Rnoise 40  

*****************Positive Current Noise********************

F_FPnoise         0 9 V_VPnoise 1
V_VPnoise         0 501 0  
D_DPnoise         0 501 Dnoise  
R_RPnoise         0 501 Rnoise 40  

*************Negative Output Stage*********************

D_D17         76 84 DX
V_VO1         84 70 0.977
V_VO2         70 85 0.977
D_D16         85 76 DX
G_G30         70 99C 99 76 91E-3
G_G31         98C 70 76 50 91E-3
R_RO30        70 99C  RX 11  
R_RO31        98C 70  RX 11 
V_VIO1        99 99C 0V
V_VIO2        98C 50 0V
V_VIO3        70 71 0V

*************Positive Output Stage********************* 

D_D17b        75 84B DX
V_VO1b        84B 70B 0.977
V_VO2b        70B 85B 0.977
D_D16b        85B 75 DX
G_G30b        70B 99D 99 75 91E-3
G_G31b        98D 70B 75 50 91E-3
R_RO30b       70B 99D  RX 11  
R_RO31b       98D 70B  RX 11
V_VIOb1       99 99D 0V
V_VIOb3       70B 71B 0V
V_VIOb2       98D 50 0V 

*******************VOCM Stage**************************

G_Gcma        0 75 110 0 1
G_Gcmb        0 76 110 0 1
R_Rcm1        100 99  RX 400k 
R_Rcm2        50 100  RX 400k
V_Vofst       100 110 -1E-3

*************VOCM Rail Clipping************************

D_Docma       100 100A DX
D_Docmb       100B 100 DX
V_Vocmb       100B 50 2.3
V_Vocma       99 100A 2.3

*************Positive Supply Current Mirror************

F_FO1         0 99 POLY(2) V_VIO1 V_VI1 -19.803E-3 1 -1
F_FO2         0 50 POLY(2) V_VIO2 V_VI2 -19.803E-3 1 -1
F_FO3         0 400 V_VIO1 1
V_VI1         401 0 0V
V_VI2         402 0 0V
D_DM1         400 401 DX
D_DM2         402 400 DX

*************Negative Supply Current Mirror************

F_FO1B        0 99 POLY(2) V_VIOb1 V_VIB1 -19.803E-3 1 -1
F_FO2B        0 50 POLY(2) V_VIOb2 V_VIB2 -19.803E-3 1 -1
F_FO3B        0 400B V_VIOb1 1
V_VIB1        401B 0 0V
V_VIB2        402B 0 0V
D_DMB1        400B 401B DX
D_DMB2        402B 400B DX

******Reference Stage***************************

E_Eref        98 0 POLY(2) 99 0 50 0 0 0.5 0.5 

****************Buffer Stage***************************

V_V3          76 76A 0
V_V4          75 75A 0

*** Feadback output ***

Vfd+ 3b 71b 0
Vfd- 9b 71  0
 
*******************************************************
.MODEL QX PNP (BF=228.57 Is=1E-15 KF=1E-14 AF=1)
.ModEl DX D (Is=1E-15 KF=2E-14 AF=1)
.MODEL RX Res (T_abs=-260)
.ModEl Dnoise D (Is=1E-15 KF=2E-14 AF=1)
.MODEL Rnoise Res 
.ENDS
*$
;$SpiceType=AMBIGUOUS





